US08106077B2
6-Bromo-1-isopropyl-1H-indazole-3-carboxylic acid methyl ester
The title compound is prepared essentially as described in procedure 1d WO2005/080389 substituting 6-Bromo-1H-indazole-3-carboxylic acid methyl ester for 1H-indazole-3-carboxylic acid methyl ester. ES/MS m/e 296.0 (M+1).

reactant | 6-Bromo-1H-indazole-3-carboxylic acid methyl ester | COC(=O)C1=NNC2=CC(=CC=C12)Br | C9H7BrN2O2
reactant | 1H-indazole-3-carboxylic acid methyl ester | COC(=O)C1=NNC2=CC=CC=C12 | C9H8N2O2
product | 6-Bromo-1-isopropyl-1H-indazole-3-carboxylic acid methyl ester | COC(=O)C1=NN(C2=CC(=CC=C12)Br)C(C)C | C12H13BrN2O2
